US09062076B2
To a stirred solution of methyl 2-(5,6-dimethoxybenzo[b]thiophene-2-carboxamido)benzoate (650 mg, 1.75 mmol) in MeOH (9 mL) and THF (20 mL) was added 2N NaOH (9 mL) dropwise at room temperature. The resulting solution was stirred at room temperature for 2 hours. The reaction was quenched with 1N HCl and diluted with water. The resulting suspension was filtered and the solid was dried under vacuum to afford 2-(5,6-dimethoxybenzo[b]thiophene-2-carboxamido)benzoic acid (550 mg, 88%). LC-MS (ES-API); rt 9.22 min; m/z calculated for C18H15NO5S [M+Na]+ 380.1, found 380.0.

reactant | methyl 2-(5,6-dimethoxybenzo[b]thiophene-2-carboxamido)benzoate | 1.75 mmol, 650 mg | COC1=CC2=C(SC(=C2)C(=O)NC2=C(C(=O)OC)C=CC=C2)C=C1OC | C19H17NO5S
reactant | NaOH | 2N, 9 mL | [OH-].[Na+]
solvent | MeOH | 9 mL | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(5,6-dimethoxybenzo[b]thiophene-2-carboxamido)benzoic acid | 550 mg, 88% | COC1=CC2=C(SC(=C2)C(=O)NC2=C(C(=O)O)C=CC=C2)C=C1OC | C18H15NO5S
